US09029560B2
Preparation of 1-[(2-isopropylphenyl)carbamothioyl]-3-[3-[3-[1-[4-(trifluoromethoxy)phenyl]-1H-1,2,4-triazol-3-yl]phenyl]propyl]urea (PC120)
The title compound was prepared as described in Example 63 using 3-(3-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propan-1-amine (CA18) and 1-(2-isopropylphenyl)thiourea. Sodium acetate was used in place of sodium bicarbonate. The title compound was isolated as a white solid (0.131 g, 40%): 1H NMR (400 MHz, DMSO-d6) δ 11.97 (s, 1H), 10.07 (s, 1H), 9.41 (s, 1H), 8.13-8.04 (m, 2H), 8.01-7.93 (m, 2H), 7.62 (ddd, J=7.9, 2.0, 1.0 Hz, 2H), 7.46 (t, J=7.6 Hz, 1H), 7.41 (dd, J=7.8, 1.5 Hz, 1H), 7.39-7.32 (m, 2H), 7.27 (td, J=7.5, 1.5 Hz, 1H), 7.20 (td, J=7.5, 1.7 Hz, 1H), 7.11 (t, J=5.6 Hz, 1H), 3.18 (q, J=6.5 Hz, 2H), 3.00 (hept, J=6.8 Hz, 1H), 2.73 (t, J=7.7 Hz, 2H), 1.93-1.75 (m, 2H), 1.16 (d, J=6.9 Hz, 6H); 19F NMR (376 MHz, DMSO-d6) δ −56.96; ESIMS m/z 583 ([M+H]+), 581 ([M−H]−).

reactant | 3-(3-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propan-1-amine | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C=1C=C(C=CC1)CCCN)(F)F | C18H17F3N4O
reactant | 1-(2-isopropylphenyl)thiourea | C(C)(C)C1=C(C=CC=C1)NC(=S)N | C10H14N2S
reactant | Sodium acetate | C(C)(=O)[O-].[Na+]
product | 1-[(2-isopropylphenyl)carbamothioyl]-3-[3-[3-[1-[4-(trifluoromethoxy)phenyl]-1H-1,2,4-triazol-3-yl]phenyl]propyl]urea | C(C)(C)C1=C(C=CC=C1)NC(=S)NC(=O)NCCCC1=CC(=CC=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C29H29F3N6O2S
